US06156700
Preparation of 2-{{5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}methoxy-N-(methylsulfonyl)acetamide
1,1'-Carbonyldiimidazole (1.17 g, 0.00722 mol) is added to a solution of {{5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}methoxy}acetic acid (1.50 g, 0.00361 mol) in tetrahydrofuran. The mixture is stirred one hour at reflux and cooled to room temperature. Methylsulfonamide (0.755 g, 0.00794 mol) is added, followed by 1,8-diazabicyclo[5.4.0]undec-7-ene (1.19 ml, 0.00794 mol). The resultant mixture is stirred overnight at room temperature, poured into 10% hydrochloric acid, and filtered. The resultant white solid is triturated in tetrahydrofuran, and filtered to give the title compound as an off-white solid (1.00 g, 56.2%, mp >240° C.) which is identified by NMR spectral analysis.

reactant | 1,1'-Carbonyldiimidazole | 0.00722 mol, 1.17 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | {{5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}methoxy}acetic acid | 0.00361 mol, 1.50 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)COCC(=O)O)C1)=O | C16H12F3N3O5S
reactant | Methylsulfonamide | 0.00794 mol, 0.755 g | CS(=O)(=O)N | CH5NO2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.00794 mol, 1.19 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | {5-[3,6-Dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}methoxy-N-(methylsulfonyl)acetamide | 1.00 g, 56.2% | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)COCC(=O)NS(=O)(=O)C)C1)=O | C17H15F3N4O6S2
